US05817603
N-[4-Chloro-3-(2-chloro-2-ethoxycarbonylethenyl)-phenyl]-3,4,5,6-tetrahydrophthalamide (compound (Ia.12)
Ammonia gas was passed into a solution of 5.9 g of N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)-phenyl]-3,4,5,6-tetrahydrophthalimide in 150 ml of acetonitrile until saturation was reached. The reaction mixture obtained was then stirred for a further 19 hours at 20°-25° C., after which the solid formed was separated off and then washed with petroleum ether. Mp.: 185°-186° C.

reactant | Ammonia | N | H3N
reactant | N-[4-chloro-3-(2-chloro-2-ethoxycarbonylethenyl)-phenyl]-3,4,5,6-tetrahydrophthalimide | 5.9 g | ClC1=C(C=C(C=C1)N1C(C2=C(C1=O)CCCC2)=O)C=C(C(=O)OCC)Cl | C19H17Cl2NO4
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | N-[4-Chloro-3-(2-chloro-2-ethoxycarbonylethenyl)-phenyl]-3,4,5,6-tetrahydrophthalamide | ClC1=C(C=C(C=C1)NC(C1=C(C(=O)N)CCCC1)=O)C=C(C(=O)OCC)Cl | C19H20Cl2N2O4
